US07074819B2
To a solution of (3RS,4RS)-7-hydroxy-3-methyl-4-[9-(4,4,5,5,5-pentafluoropentylthio)nonyl]-3-(4-pyridyl)chroman (6.1 mg, 0.011 mmol) in tetrahydrofuran (0.5 ml) was added under ice-cooling a solution of Oxone® (monopersulfate compound; DuPont product) (3.4 mg, 0.0055 mmol) in water (0.5 ml), which was then stirred for 5 hours. After the reaction was completed, the reaction solution was extracted with ethyl acetate and washed with saturated saline solution. The organic layer was dried over magnesium sulfate, and the solvent was removed under reduced pressure. The residue was subjected to silica gel column chromatography (ethyl acetate) to give (3RS,4RS)-7-hydroxy-3-methyl-4-[9-(4,4,5,5,5-pentafluoropentylsulfinyl)nonyl]-3-(4-pyridyl)chroman (5.1 mg, yield 81%).

reactant | (3RS,4RS)-7-hydroxy-3-methyl-4-[9-(4,4,5,5,5-pentafluoropentylthio)nonyl]-3-(4-pyridyl)chroman | 0.011 mmol, 6.1 mg | OC1=CC=C2C(C(COC2=C1)(C1=CC=NC=C1)C)CCCCCCCCCSCCCC(C(F)(F)F)(F)F | C29H38F5NO2S
reactant | Oxone | OOS(=O)[O-].[K+]
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
solvent | water | 0.5 ml | O | H2O
product | (3RS,4RS)-7-hydroxy-3-methyl-4-[9-(4,4,5,5,5-pentafluoropentylsulfinyl)nonyl]-3-(4-pyridyl)chroman | 5.1 mg, yield 81% | OC1=CC=C2C(C(COC2=C1)(C1=CC=NC=C1)C)CCCCCCCCCS(=O)CCCC(C(F)(F)F)(F)F | C29H38F5NO3S
